US05130322
a mixture of 50 g of 3-acetyl-4-hydroxybenzonitrile, 70 ml of methoxy-2-propanone, 6 ml of pyrrolidine and 300 ml of toluene is boiled in a water separator for 3 hours. The mixture is evaporated, the residue is worked up in the customary manner (ethyl acetate/dil. hydrochloric acid) and 2-methoxymethyl-2-methyl-6-cyano-4-chromanone is obtained, m.p. 79°-81° C.

reactant | 3-acetyl-4-hydroxybenzonitrile | 50 g | C(C)(=O)C=1C=C(C#N)C=CC1O | C9H7NO2
reactant | methoxy-2-propanone | 70 ml | COCC(C)=O | C4H8O2
reactant | pyrrolidine | 6 ml | N1CCCC1 | C4H9N
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-methoxymethyl-2-methyl-6-cyano-4-chromanone | COCC1(OC2=CC=C(C=C2C(C1)=O)C#N)C | C13H13NO3
